* Z:\mnt\design.r\spice\examples\1412.asc
V1 +V 0 15
V2 -V 0 -15
V3 N001 0 sine(0 5 1K)
V4 N003 0 pulse(0 3.3 0 1u 1u 5m 10m)
R1 N002 0 1K
XU1 N003 N002 N001 -V 0 +V ADG1412
.tran 30m
.lib ADG1412.sub
.backanno
.end
